US08039450B2
To a solution of methyl 4-(3-formyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)-3-hydroxybenzonitrile (25.1 g) in methanol (300 mL) was added sodium borohydride (2.45 g, 64.5 mmol) portionwise at 0° C. The mixture was stirred at room temperature for 1 h. The solvent was removed under reduced pressure to about a third of volume. The mixture was acidified with 6 M HCl, and extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by silica gel chromatography (7:3 to 6:4 hexane/acetone) followed by recrystallization from acetone/water and trituration with ethyl acetate to give 5-(4-cyano-2-hydroxyphenoxy)-1,3-dihydro-1-hydroxy-2,1-benzoxaborole (10.9 g, 63%).

reactant | methyl 4-(3-formyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)-3-hydroxybenzonitrile | 25.1 g | CC1=C(C#N)C=CC(=C1O)OC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=O | C21H22BNO5
reactant | sodium borohydride | 64.5 mmol, 2.45 g | [BH4-].[Na+]
solvent | methanol | 300 mL | CO | CH4O
product | 5-(4-cyano-2-hydroxyphenoxy)-1,3-dihydro-1-hydroxy-2,1-benzoxaborole | 10.9 g, 63% | C(#N)C1=CC(=C(OC=2C=CC3=C(COB3O)C2)C=C1)O | C14H10BNO4
